US04049808
A solution of trimethyloxosulphonium iodide (2.64 g.) in dry dimethylsulphoxide (50 ml. ) is stirred at 50°-60° C. in an atmosphere of nitrogen and an 80% w/w mineral oil dispersion of sodium hydride (0.36 g.) is added. Stirring and heating are continued until the solution is clear and no more hydrogen is evolved. A solution of 3-phenylpropionaldehyde (1.34 g.) in dry dimethyl sulphoxide (10 ml.) is added and the mixture is stirred at 50°-60° C. in an atmosphere of nitrogen for 3 hours. The mixture is cooled and diluted with water (200 ml.), and the product is obtained by extraction with ethyl acetate (3 × 80 ml.). Removal of the solvent from the combined extracts gives 1,2-epoxy-4-phenylbutane as an oil which is not further purified.

reactant | trimethyloxosulphonium iodide | 2.64 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-phenylpropionaldehyde | 1.34 g | C1(=CC=CC=C1)CCC=O | C9H10O
solvent | dimethylsulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 10 ml | CS(=O)C | C2H6OS
solvent | water | 200 ml | O | H2O
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 1,2-epoxy-4-phenylbutane | O1CC1CCC1=CC=CC=C1 | C10H12O
